US04200578
When 2-chloromethyl-4-methylthiazole [prepared by the reaction of thionyl chloride and 2-hydroxymethyl-4-methylthiazole, which itself is prepared according to the procedure of J. Chem. Soc., (Suppl. Issue No. 1), S106-111 (1966) or Acta Chem. Scand., 20, 2649 (1966)] is reacted with cysteamine hydrochloride and about two equivalents of a strong base such as sodium methoxide, and the resultant amine is treated with 1,1-bis(methylthio)-2-nitroethylene, there is produced 1-nitro-2-methylthio-2-{2-[(4-methylthiazol-2-yl)methylthio]ethylamino}ethylene. When the latter compound is reacted with propargylamine according to the general procedure of Example 1, there is produced 1-nitro-2-(2-propynylamino)-2-{2-[(4-methylthiazol-2-yl)methylthio]ethylamino}ethylene.

reactant | 2-chloromethyl-4-methylthiazole | ClCC=1SC=C(N1)C | C5H6ClNS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-methylthiazole | OCC=1SC=C(N1)C | C5H7NOS
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1,1-bis(methylthio)-2-nitroethylene | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
product | 1-nitro-2-methylthio-2-{2-[(4-methylthiazol-2-yl)methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC=1SC=C(N1)C)SC | C10H15N3O2S3
